US06258953B1
N-(3,4-Dichlorophenyl)-3-[2-(4-methylpiperazin-1-yl)phenyl]-acrylamide
In a flame-dried 3-neck round bottom flask containing a magnetic stir bar, water condensor and dry nitrogen (N2) inlet were placed 2-(4-methylpiperazin-1-yl)-aniline (0.200 g, 1.05 mmol) and 50% aqueous tetrafluoroboric acid (HBF4)(0.33 ml, 2.63 mmol). To the stirred mixture, sodium nitrite (0.076 g, 1.10 mmol) in 2 mL of water was added and stirring was continued at 0° C. for 30 minutes. A solution of N-(3,4-dichlorophenyl)-acrylamide (0.454 g, 2.1 mmol) in 4 mL of methanol, followed by palladium (II) acetate (5 mg) were then added and the reaction was refluxed for 30 minutes. After allowing the reaction to cool, the solvent was removed in vacuo and the residue was partitioned between ethyl acetate and saturated aqueous sodium carbonate. The organic layer was washed with saturated brine and dried with CaSO4, filtered and concentrated in vacuo to a crude dark solid. Chromatography on silica gel, eluting with 75% ethyl acetate:hexanes, 100% ethyl acetate and finally 0.5% methanol: ethyl acetate provided a yellow solid, 0.221 g which was recrystallized from ethyl acetate to give the title product, 0.120 g.

reactant | 2-(4-methylpiperazin-1-yl)-aniline | 1.05 mmol, 0.200 g | CN1CCN(CC1)C1=C(N)C=CC=C1 | C11H17N3
reactant | tetrafluoroboric acid | 2.63 mmol, 0.33 ml | F[B-](F)(F)F.[H+]
reactant | sodium nitrite | 1.10 mmol, 0.076 g | N(=O)[O-].[Na+]
reactant | N-(3,4-dichlorophenyl)-acrylamide | 2.1 mmol, 0.454 g | ClC=1C=C(C=CC1Cl)NC(C=C)=O | C9H7Cl2NO
solvent | water | 2 mL | O | H2O
solvent | methanol | 4 mL | CO | CH4O
catalyst | palladium (II) acetate | 5 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | N-(3,4-Dichlorophenyl)-3-[2-(4-methylpiperazin-1-yl)phenyl]-acrylamide | ClC=1C=C(C=CC1Cl)NC(C=CC1=C(C=CC=C1)N1CCN(CC1)C)=O | C20H21Cl2N3O
